Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Dyspnea, lower extremity swelling
 
Major Surgical or Invasive Procedure:
___: Right-sided thoracentesis
___: chest tube placement for Right pneumothorax
___: Right heart catheterization
___: Cardioversion
___: Repeat cardioversion
___: VATS, hematoma evacuation, placement of 3 chest tubes
___: IVC filter placement
___: IVC filter retrieval
 
History of Present Illness:
___ male with OSA and DJD, who presents to ED with new 
onset AFib with RVR, dyspnea and lower extremity swelling, found 
to have diffuse bilateral PEs. 

Patient has been experiencing dyspnea on exertion lower 
extremity swelling for the past week and also c/o orthopnea 
where he needs to sleep on ___ pillows. He does admit to 
hemoptysis with pink tinged sputum (non purulent) a/w cough for 
the past two days and admits to right sided pleuritic chest pain 
when he has a severe episode of coughing.  

Two weeks ago had hayfever which resolved with cetirizine and 
fluticasone nasal spray. At that time pt was not febrile but c/o 
cough, rhinorrhea, itching around the eyes and increased 
lacrimation.

He denies any chest pain or palpitations. No fevers or chills; 
no recent surgery, travel, immobility. Has been up to date with 
healthcare maintenance (colonoscopies).

Pt had trouble sleeping night before admission due to severe 
dyspnea while lying supine with ___ pillows. and went to PCP the 
next day who found pt to be in Afib and was sent here with HR to 
160s.

In ED, pt was given Lasix 40mg IV, metoprolol IV 5mg x 3, PO 
12.5mg, and dilt 10mg IV x2 which brought HR to 110s-120s. SBP 
initially 147/97, and SBP trended down to 96-105 after given 
nodal blockers. CTA was done which showed PEs and pt started on 
heparin gtt.

Most Recent Vitals before transfer: 98.6 ___ 32 97%3LNC

On arrival to the floor, patient A&Ox3, HR 120s, BP110s, 
tachypneic and saturating high ___ on 3L NC.  
 
Past Medical History:
1. CARDIAC RISK FACTORS: Denies hypertension, hyperlipidemia, 
DM, stroke, cancer. Per records, patient does have hx of 
hypertension in the mast
2. CARDIAC HISTORY: denies h/o MI
-CABG: none
-PERCUTANEOUS CORONARY INTERVENTIONS:  none
-PACING/ICD: none
3. OTHER PAST MEDICAL HISTORY:  
OSA - uses CPAP
DJD
 
Social History:
___
Family History:
No premature CAD. 
Father had stroke and MI in his ___. 
No family history of clots.
 
Physical Exam:
Admission exam:
VS: 98.6 ___ 32 97%3LNC
weight: 113 kgs (249.12 lbs)
GENERAL:NAD. Oriented x3. Mood, affect appropriate, speaking in 
full sentences.
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthalesma.  

NECK: Supple with JVP at jawline  
CARDIAC: irregular rhythm, tachycardic, No m/r/g. No thrills, 
lifts. No S3 or S4.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. 
tachypneic, and with accessory muscle use. Bibasilar crackles; 
no wheezes or rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness. 
EXTREMITIES: 3+ pitting edema to knees, distal ___ cool, 
dopplerable pulses
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas. 

Discharge Exam:
Gen: A/O, NAD
HEENT: DSD on right neck s/p IVC filter removal
CV: RRR, ___ systolic murmur
Chest: CTAB
Abd: obese, soft, pos BS, diarrhea decreasing
Extremeties: ___ + edema ___, none UE
 
Pertinent Results:
ADMISSION LABS:
___ 05:10PM BLOOD WBC-24.6*# RBC-5.77 Hgb-18.2* Hct-54.6* 
MCV-95 MCH-31.6 MCHC-33.4 RDW-13.2 Plt ___
___ 05:10PM BLOOD Neuts-91.9* Lymphs-3.1* Monos-4.9 Eos-0 
Baso-0.2
___ 05:10PM BLOOD ___ PTT-33.3 ___
___ 05:10PM BLOOD Glucose-96 UreaN-34* Creat-1.2 Na-131* 
K-4.4 Cl-94* HCO3-23 AnGap-18
___ 06:19AM BLOOD ALT-26 AST-30 LD(LDH)-354* AlkPhos-92 
TotBili-2.8* DirBili-1.2* IndBili-1.6
___ 06:19AM BLOOD Calcium-9.6 Phos-3.9 Mg-2.0

BUN, CREATININE, SODIUM TREND:
___ 05:10PM BLOOD UreaN-34* Creat-1.2 Na-131* 
___ 05:55PM BLOOD UreaN-58* Creat-1.7* Na-126*
___ 03:11PM BLOOD UreaN-80* Creat-2.3* Na-120* 
___ 05:13AM BLOOD UreaN-95* Creat-2.2* Na-125* 
___ 05:47AM BLOOD UreaN-106* Creat-2.5* Na-125* 
___ 05:48PM BLOOD UreaN-97* Creat-2.0* Na-126* 
___ 07:35PM BLOOD UreaN-83* Creat-1.7* Na-125*
___ 04:24PM BLOOD UreaN-51* Creat-1.5* Na-125* 
___ 11:32PM BLOOD UreaN-61* Creat-2.2* Na-121* 
___ 04:49AM BLOOD UreaN-59* Creat-1.9* Na-128* 
___ 04:31AM BLOOD UreaN-46* Creat-1.6* Na-129* 
___ 05:23AM BLOOD UreaN-41* Creat-1.2 Na-133*
___ 06:20PM BLOOD UreaN-39* Creat-1.2 Na-135 
___ 05:15AM BLOOD UreaN-39* Creat-1.4* Na-131*
___ 05:53AM BLOOD UreaN-37* Creat-1.5* Na-133 

WBC TREND:
___ 05:10PM BLOOD WBC-24.6*
___ 05:10PM BLOOD Neuts-91.9* Lymphs-3.1* Monos-4.9 Eos-0 
Baso-0.2
___ 05:13AM BLOOD WBC-28.0* 
___ 05:26AM BLOOD WBC-32.4* 
___ 05:26AM BLOOD Neuts-87* Bands-2 Lymphs-5* Monos-5 Eos-0 
Baso-0 ___ Myelos-1*
___ 04:54AM BLOOD WBC-38.6* 
___ 04:54AM BLOOD Neuts-84* Bands-1 Lymphs-4* Monos-5 Eos-0 
Baso-0 ___ Metas-4* Myelos-2*
___ 05:29AM BLOOD WBC-50.4* 
___ 05:29AM BLOOD Neuts-82* Bands-0 Lymphs-4* Monos-5 Eos-0 
Baso-0 ___ Metas-5* Myelos-3* Promyel-1*
___ 04:10AM BLOOD WBC-38.4* 
___ 04:10AM BLOOD Neuts-92.2* Lymphs-2.5* Monos-4.5 Eos-0.6 
Baso-0.1
___ 04:31AM BLOOD WBC-24.7* 
___ 04:31AM BLOOD WBC-17.9* RBC-2.52* Hgb-7.8* Hct-23.6* 
MCV-94 MCH-31.2 MCHC-33.3 RDW-15.5 Plt ___
___ 04:31AM BLOOD Neuts-90.3* Lymphs-3.5* Monos-4.5 Eos-1.6 
Baso-0.1
___ 05:23AM BLOOD WBC-16.0*
___ 06:00AM BLOOD WBC-14.4* RBC-3.44* Hgb-10.5* Hct-32.6* 
MCV-95 MCH-30.4 MCHC-32.1 RDW-15.0 Plt ___
___ 05:15AM BLOOD WBC-14.8* Hct-31.2*
___ 05:53AM BLOOD WBC-15.0* RBC-3.45* Hgb-10.5* Hct-32.6* 
MCV-94 MCH-30.5 MCHC-32.3 RDW-14.4 Plt ___

LEUKOCYTOSIS WORKUP LABS:
___ 11:51AM BLOOD b2micro-5.9*
___ 05:00PM BLOOD PEP-HYPOGAMMAG IgG-397* IgA-296 IgM-47 
IFE-NO MONOCLO
___ 11:51AM BLOOD BCR/ABL GENE REARRANGEMENT, QUANTITATIVE 
PCR, CELL-BASED - NEGATIVE   
___ 11:51AM BLOOD FREE KAPPA AND LAMBDA, WITH K/L RATIO
FREE KAPPA, SERUM             30.6  H             3.3-19.4 mg/L 
FREE LAMBDA, SERUM            34.9  H             5.7-26.3 mg/L 
FREE KAPPA/LAMBDA RATIO       0.88                0.26-1.65    
___ 11:51AM BLOOD JAK2 MUTATION (V617F), QUALITATIVE WITH 
REFLEX TO EXONS 12, 13 AND MPL-Test   

OTHER PERTINENT LABS:
___ 05:10PM BLOOD cTropnT-0.02*
___ 06:19AM BLOOD cTropnT-0.01 proBNP-5167*
___ 04:22AM BLOOD %HbA1c-5.7 eAG-117
___ 04:22PM BLOOD Triglyc-60 HDL-10 CHOL/HD-11.4 LDLcalc-92
___ 06:19AM BLOOD TSH-1.1
___ 04:22PM BLOOD TotProt-4.6* Albumin-3.0* 
___ 05:23AM BLOOD Albumin-2.3* 

DISCHARGE LABS:

==================================================

MICROBIOLOGY DATA:

___ 07:30PM URINE Color-Amber Appear-Hazy Sp ___
___ 07:30PM URINE Blood-NEG Nitrite-NEG Protein-100 
Glucose-NEG Ketone-TR Bilirub-SM  Urobiln-4* pH-6.0 Leuks-NEG
___ 07:30PM URINE RBC-<1 WBC-3 Bacteri-NONE Yeast-NONE 
Epi-2 TransE-<1
___ 04:20PM URINE Color-Red Appear-Hazy Sp ___
___ 04:20PM URINE Blood-LG Nitrite-NEG Protein-30 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-2* pH-5.5 Leuks-LG
___ 04:20PM URINE RBC->182* WBC-107* Bacteri-MOD Yeast-NONE 
Epi-0
___ PLEURAL FLUID 
GRAM STAIN (Final ___: 
      2+   ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 
      CULTURES ALL NGTD
___ PLEURAL FLUID 
GRAM STAIN (Final ___:
      2+   ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 
      CULTURES ALL NGTD
___ PLEURAL DEBRIS
GRAM STAIN (Final ___: 
      2+   ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 
      CULTURES ALL NGTD
___ BRONCHOALVEOLAR LAVAGE 
GRAM STAIN (Final ___: 
      3+  ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 
      RESPIRATORY CULTURE (Final ___:    NO GROWTH, <1000 
CFU/ml. 
___ BLOOD CULTURE - NEGATIVE x2
___ SPUTUM GRAM STAIN-FINAL; RESPIRATORY 
CULTURE-FINAL {YEAST} INPATIENT 
___ URINE Legionella Urinary Antigen - NEGATIVE
___ PLEURAL FLUID 
      GRAM STAIN (Final ___: 
      4+   (>10 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 
      FLUID CULTURE (Final ___: 
      STAPHYLOCOCCUS, COAGULASE NEGATIVE. 
      SPARSE GROWTH ISOLATED FROM ONE PLATE ONLY.  REPLANT = NO 
GROWTH. 
   ANAEROBIC CULTURE (Final ___:    NO GROWTH. 
___ BLOOD CULTURE - NEGATIVE x2
___ URINE URINE CULTURE
___ 4:20 pm URINE      Source: Catheter. 
                            **FINAL REPORT ___
   URINE CULTURE (Final ___: 
      ESCHERICHIA COLI.    >100,000 ORGANISMS/ML.. 
         PRESUMPTIVE IDENTIFICATION. 
        Piperacillin/tazobactam sensitivity testing available on 
request. 
        Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 
      ENTEROCOCCUS SP..    10,000-100,000 ORGANISMS/ML.. 
                              SENSITIVITIES: MIC expressed in 
MCG/ML
_________________________________________________________
                             ESCHERICHIA COLI
                             |          ENTEROCOCCUS SP.
                             |          |   
AMPICILLIN------------   <=2 S      <=2 S
AMPICILLIN/SULBACTAM--   <=2 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------    32 S     <=16 S
TETRACYCLINE----------             =>16 R
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S
VANCOMYCIN------------                2 S
___ 5:45 am BLOOD CULTURE      Source: Line-aline. 
                            **FINAL REPORT ___
   Blood Culture, Routine (Final ___: 
      STAPHYLOCOCCUS, COAGULASE NEGATIVE. 
         Isolated from only one set in the previous five days. 
         SENSITIVITIES PERFORMED ON REQUEST.. 
      STAPHYLOCOCCUS, COAGULASE NEGATIVE.    SECOND MORPHOLOGY. 
         Isolated from only one set in the previous five days. 
         SENSITIVITIES PERFORMED ON REQUEST.. 
   Anaerobic Bottle Gram Stain (Final ___: 
      GRAM POSITIVE COCCI IN PAIRS AND CLUSTERS. 
___ 5:46 am URINE      Source: Catheter. 
                            **FINAL REPORT ___
   URINE CULTURE (Final ___: 
      GRAM NEGATIVE ROD(S).    ~7000/ML. 
___ BLOOD CULTURE - NEGATIVE x2 

==================================================

PATHOLOGY:

___: Pleural fluid: NEGATIVE FOR MALIGNANT CELLS. Rare 
degenerated mesothelial cells, neutrophils, lymphocytes and 
macrophages.

==================================================

IMAGING:

ECG ___: 
Atrial fibrillation with rapid ventricular response. Left 
ventricular hypertrophy with diffuse ST-T wave abnormalities. 
Compared to the previous tracing of ___ rapid atrial 
fibrillation is new. Diffuse ST-T wave abnormalities are also 
new. 

CXR ___: 
Bilateral pleural effusions with overlying atelectasis.  
Additional bibasilar opacities, particularly at the right 
mid-to-lower lung may be due to infection and/or aspiration. 

CTA ___: 
1.  Bilateral lobar pulmonary emboli with CT findings concerning 
for developing right heart strain, which can be further 
evaluated with echocardiography. 
2.  Consolidation in the right lower lobe, which may be due to 
infarct, though aspiration and infection are also within the 
differential. 
3.  Bilateral moderate pleural effusions, right greater than 
left. 

___ ___: 
No DVT of the bilateral lower extremity.  There is occlusive 
thrombus within the left greater saphenous vein.

ECHO ___: 
The left atrium is mildly dilated and elongated. The right 
atrium is moderately dilated. There is moderate symmetric left 
ventricular hypertrophy. The left ventricular cavity size is 
normal. Due to suboptimal technical quality, a focal wall motion 
abnormality cannot be fully excluded. Overall left ventricular 
systolic function is moderately-severely depressed (LVEF= 30 %). 
The right ventricular cavity is moderately dilated with moderate 
global free wall hypokinesis. The aortic valve leaflets (3) are 
mildly thickened. The mitral valve leaflets are mildly 
thickened. Trivial mitral regurgitation is seen. There is mild 
pulmonary arterial hypertension. There is no pericardial 
effusion. 
IMPRESSION: Suboptimal image quality. Moderate symmetric left 
ventricular hypertrophy with moderate-severe biventricular 
systolic dysfunction. Right ventricular dilatation.

CT ABD/PELVIS ___:
1.  No CT evidence of malignancy or adenopathy.  
2.  Bilateral pleural effusions, right greater than left with 
bibasilar 
collapse. 
3.  Consolidation in the right lower lobe, which may be related 
to infarct, aspiration, or infection.   
4.  Mild nonspecific rectal wall thickening. 

CXR ___: 
Compared to the previous radiograph, there is a massive increase 
in extent of the known right pleural effusion.  The effusion now 
occupies approximately ___ of the right hemithorax.  It must be 
assumed, that the parenchymal opacity at the right lung bases, 
present on the chest x-ray from ___ and better 
documented on the CT examination of the chest from ___, is still present. Unchanged moderate cardiomegaly.  Left 
lung is normal.  There is no left pleural effusion.  A mild 
retrocardiac atelectasis is seen as a sole abnormality. 

ECHO ___: 
The left atrium is mildly dilated. The left atrium is elongated. 
No atrial septal defect is seen by 2D or color Doppler. There is 
moderate symmetric left ventricular hypertrophy. The left 
ventricular cavity size is normal. Overall left ventricular 
systolic function is severely depressed (LVEF= ___ secondary 
to moderate global hypokinesis with severe hypokinesis of the 
interventricular septum . The right ventricular cavity is 
moderately dilated with mild global free wall hypokinesis. There 
is abnormal septal motion/position. The aortic valve leaflets 
(3) are mildly thickened but aortic stenosis is not present. No 
aortic regurgitation is seen. The mitral valve leaflets are 
mildly thickened. There is no mitral valve prolapse. Mild (1+) 
mitral regurgitation is seen. The estimated pulmonary artery 
systolic pressure is normal. There is no pericardial effusion. 
Compared with the prior study (images reviewed) of ___, 
the patient appears less tachycardic and image quality has 
improved. Left ventricular systolic function remains severely 
depressed. Right ventricular may have improved slightly but 
suboptimal image quality of the prior study precludes definite 
comparison. Pulmonary pressures are lower.  

CXR ___: 
Current study demonstrates substantial amount of pleural 
effusion and large pneumothorax on the right with persistent 
left mediastinal shift consistent with substantial amount of 
still present air and fluid on the right.  Subsequent 
radiographs demonstrated insertion of the chest tube. 
The right chest tube has been placed.  There is no substantial 
pleural effusion demonstrated.  There is minimal reexpansion 
pulmonary edema seen.  There is minimal amount of apical 
pneumothorax present. 

Right Heart Cath ___: 
Resting hemodynamics revealed elevated right sided filling 
pressures with an RVEDP of 11 mm Hg.  There was also pulmonary 
arterial hypertension with PA pressure of 43/26 mm Hg.  Left 
sided filling pressures were minimally elevated with a PCWP mean 
pressure of 16 mm Hg. The cardiac index was depressed at 1.38 
l/min/m2 using an assumed oxygen consumption. Dopamine was 
turned down at 1222 after initial vascular access given ongoing 
tachycardia to heart rates in the 150s.  Values above are 
reported on low dose dopamine (0.5 mcg/kg/min).  
FINAL DIAGNOSIS:     
1. Mild pulmonary arterial hypertension on low dose dopamine 
2. Mild elevation of PCW on low dose dopamine 
3. Low computed cardiac index on low dose dopamine 
4. Ongoing tachycardia 

CXR ___: 
As compared to the previous radiograph, the right chest tube is 
inunchanged position.  There is, however, a small basal lateral 
remaining pneumothorax. Unchanged right basal areas of 
atelectasis, unchanged moderate cardiomegaly, unchanged absence 
of larger pleural effusions.

ECHO ___: 
No intracardiac thrombus. Severe dilation of the pulmonary 
artery. Severely dilated RV with global free wall hypokinesis 
and ___'s sign.

CXR ___: 
Right upper pleural tube unchanged in position.  Small right 
pneumothorax is predominantly lateral and inferior.  Tube 
function should be evaluated to see if it is fissural.  
Consolidation in the right lower lung has been stable since 
thoracentesis.  Whether this is re-expansion edema, residual 
atelectasis, or primary pulmonary pathology is radiographically 
indeterminate at this stage.  Moderate cardiomegaly unchanged.  
No pulmonary edema. 
 
CXR ___: 
Right chest tube remains in place.  A loculated hyperlucency is 
seen in the right lateral lower thorax which could reflect a 
loculated pneumothorax.  There is improving aeration at the 
right base with residual patchy opacity which likely reflects 
resolving atelectasis or edema related to re-expansion.  There 
is a residual small right effusion.  Left lung is grossly clear. 
 No pulmonary edema.  Overall cardiac and mediastinal contours 
are likely stable given differences in patient positioning. 

CXR ___: 
Right-sided chest tube remains in place, with persistent 
apparent loculated hydropneumothorax at the right lung base.  
Improving atelectasis in right middle and right lower lobes.  
Apparently new small left pleural effusion with adjacent 
atelectasis. Otherwise, no relevant short interval 
changes. 
 
___: CT CHEST WITHOUT INTRAVENOUS CONTRAST:  
1.  Interval thoracentesis with chest tube placement in a prior 
right pleural effusion. The overall size of the effusion has 
decreased; however, there are three focal loculated pockets of 
residual pleural fluid.  A pocket along the major fissure 
contains a small amount of air and fluid, a small 
hydropneumothorax. 
2. Small right anterior pneumothorax. 
3. Decreased size of a left pleural effusion, now small. 
4. Persistent right lower lobe consolidation, likely ongoing 
atelectasis in the setting of prior large effusion. 
5. Prior right lower lobe ground-glass opacity has resolved, 
likely the site of prior infarct in the setting of known 
pulmonary emboli. 
6. Unchanged dilatation of the main pulmonary artery up to 4.2 
cm. 
7. Heterogeneous left lobe of the thyroid gland with probable 
focal nodule.Recommend non-emergent ultrasound for further 
characterization. 

___ ECHO:
The left atrium and right atrium are normal in cavity size. Left 
ventricular wall thicknesses and cavity size are normal. There 
is mild global left ventricular hypokinesis (LVEF = 40-45 %). 
Right ventricular chamber size is normal. with moderate global 
free wall hypokinesis. The aortic root is mildly dilated at the 
sinus level. The aortic valve leaflets (3) are mildly thickened. 
There is no aortic valve stenosis. Mild (1+) aortic 
regurgitation is seen. The mitral valve leaflets are moderately 
thickened. Mild (1+) mitral regurgitation is seen. [Due to 
acoustic shadowing, the severity of mitral regurgitation may be 
significantly UNDERestimated.] Tricuspid regurgitation is 
present but cannot be quantified. The pulmonary artery systolic 
pressure could not be determined. The end-diastolic pulmonic 
regurgitation velocity is increased suggesting pulmonary artery 
diastolic hypertension. There is an anterior space which most 
likely represents a prominent fat pad. 
IMPRESSION: Suboptimal image quality. Normal biventricular 
cavity sizes with global biventricular hypokinesis. Mild aortic 
regurgitation. Mild mitral regurgitation. Compared with the 
prior study (images reviewed) of ___, right ventricular 
cavity size is smaller and biventricular systolic function is 
improved. Mild aortic regurgitation is now identified.  

___.Right pleural drain removed. New large right hemothorax and 
right chest wall hematoma along prior chest tube tract. Small 
anterior right 
hydropneumothorax unchanged.  
2.Possible right basal traumatic pneumatocele. 
3.Probable pulmonary hypertension reflected in stable dilatation 
of the main pulmonary artery. 
4.Severe, increased right lower lobe atelectasis, right lung 
otherwise, and left lung both clear. Small non-hemorrhagic left 
pleural effusion and 
associated minimal compressive atelectasis both unchanged. 
  
___ CXR: 
In comparison with the earlier study of this date, the chest 
tubes remain in place.  No evidence of pneumothorax.  There may 
still be a tiny amount of gas loculated in the right 
costophrenic angle. 
Endotracheal tube and nasogastric tubes have been removed.  Left 
lung is 
essentially clear with mild atelectatic changes at the base. 

___ CXR: 
Moderate cardiomegaly and widened mediastinum are unchanged.  
Left lower lobe opacities have increased, consistent with 
increasing atelectasis and small effusion.  Right lower lobe 
atelectasis is stable.  There are no large pneumothoraces.  
Three right chest tubes remain in unchanged position.  Right 
PICC tip is in the mid SVC.  Right chest wall subcutaneous 
emphysema is seen. 

___ CXR: 
In comparison with study of ___, the right chest tubes remain 
in place and there is no evidence of substantial pneumothorax.  
Continued opacification at the right base consistent with recent 
surgery.  Left base appears somewhat clear, though there is 
again evidence of pleural fluid and atelectasis. Small amount of 
right subcutaneous emphysema is again seen.
 
___ CXR:
In comparison with the earlier study of this date, the right 
chest tubes have been removed.  There may be a tiny apical 
pneumothorax.  Continued decrease opacification at the right 
base with continued subcutaneous gas along the right lateral 
chest wall extending into the neck and abdomen.

Labs on discharge: 
___ 06:35AM BLOOD WBC-28.3*# RBC-3.08* Hgb-9.2* Hct-29.0* 
MCV-94 MCH-29.8 MCHC-31.7 RDW-14.8 Plt ___
___ 10:29AM BLOOD WBC-26.3*
___ 06:35AM BLOOD UreaN-44* Creat-2.2* Na-132* K-4.9 Cl-91* 
HC___ AnGap-15
 
Brief Hospital Course:
Mr. ___ is a ___ gentleman with obesity and OSA on CPAP who 
was admitted to the CCU with new-onset segmental PEs, AFib/RVR, 
and new biventricular heart failure.  He was treated for his PEs 
with anticoagulation, and CHF/AFib with diuresis, Milrinone, 
cardioversion, and Amiodarone.  His course was complicated by 
___ and ___ hemothorax which required multiple interventions.  
After 2 weeks in the CCU he was transferred to the Cardiology 
floor and was eventually discharged to ___. 

ACTIVE ISSUES
#. Acute on Chronic systolic CHF: EF 30%-->increased to 45%. 
Still edematous but much improved. No prior diagnosis of CHF, 
though had in past but now with CHF symptoms. Etiology still not 
___ clear, but likely a combination of obesity/OSA, 
hypertension, possibly CAD if it worsened since cardiac cath in 
___, and pulmonary emboli.  Unclear how long he was tachycardic 
but he could have developed tachycardia-mediated cardiomyopathy 
as well.  He has intermittently been diuresed and was on 
Milrinone for a few days. His weight at discharge is 203 pounds 
and this should be considered his dry weight. Torsemide 40 mg 
and lisinopril 2.5mg held ___ for rising creatinine but this 
should be restarted once creatinine is falling. 

#. Cardiac function: Evidence of both left-sided and right-sided 
dysfunction on echo. Acute decompensation likely secondary to 
PE, with afib with RVR contributing. Initially held off on 
aggressive diuresis given likely pre-load dependence. Patient 
was carefully diuresed with IV lasix PRN as patient grossly 
fluid overloaded on exam. This was a slow process due to 
hemothorax (see below). When hemodynamically stable, patient was 
started on metoprolol XL.

# AFib/RVR: He has much more favorable hemodynamics when he is 
in sinus so he was started on Amiodarone, had a TEE (which 
showed no thrombi) and then was cardioverted ___ (which worked 
for 1 day and he went back into AFib).  ___ he had marginal 
blood pressures and was requiring pressors so he was 
cardioverted again.  Now, in sinus, he is doing much better and 
was weaned off pressors. He was maintained on PO amiodarone. 
When hemodynamically stable, patient was started on metoprolol. 
His amiodarone should be decreased to 200 mg daily in 3 days.    


# Pleural effusions: We believed his effusions were contributing 
to his respiratory status so he underwent thoracentesis ___, 
which was complicated by pneumothorax, now s/p chest tube 
placement and removal ___ (exudative effusion, nothing growing 
out of fluids so far, cytology normal).  Based on CT ___ he 
had large hematoma and hemothorax so went for VATS that day (see 
below). 

# ___: baseline Cr 1, on admission was 1.2, peaked at 2.5, went 
down to 1.6 (Nephrology believes this was mostly from 
contrast-induced nephropathy and also CHF). But after 
hypotension on ___, Cr bumped to 2.2 but slowly dropped back 
down to 1.2. On day of discharge, creatinine increased to 2.2 He 
was found to have urinary retention and a foley was placed and 
flomax started. This could be the cause of increased creatinine. 
Torsemide is on hold. Please perform voiding trial in 5 days and 
check Chem-7 on the day after discharge. 

# Leukocytosis to peak of 55: Hematology believes this is mostly 
reactive, but we had him on empiric antibiotics for HCAP 
coverage. Beta 2 microglobulin and kappa/lamda were mildly 
elevated but again thought to be reactive. BCR-ABL was negtaive. 
JAK 2 was negative.   With time the leukocytosis continued with 
no clear infection so Abx were stopped ___. ___ trending down 
since antibiotics were discontinued. At discharge, WBC was 23.

# Pulmonary emboli: Hematology recommended outpatient 
hypercoagulability work-up and malignancy work-up including 
colonoscopy and biopsies of rectal thickening that was seen on 
CT (you had already referred him back for colonoscopy in ___ 
but they feel he should have a repeat study). Patient maintained 
on heparin drip until it was discovered that he had a large 
hemothorax, at which point heparin drip was stopped (see below). 
Because heparin was off for several days, IVC filter was placed 
on ___ and retrieved on ___ ___onfirmed no further 
increase in the size of the hematoma.

# Hemothorax: Chest CT on ___ showed large hemothorax with 
hematoma tracking along the right chest wall. Patient required a 
total of 4 units red cells to maintain Hct > 21.  Given the 
loculation and large hematoma seen on imaging, patient was taken 
to the OR afternoon of ___ by thoracic surgery for removal of 
hematoma and placement of 3 chest tubes. He tolerated the 
procedure well without complication. Patient's heparin drip (for 
pulmonary embolism, see above) was stopped prior to going to the 
OR. Chest tubes were removed on ___ without 
complications and hematocrit remained stable. 
 
#Erythrocytosis: Pt without history of high H/H. Pt may be dry 
or physiologic compensation for hypoxia (secondary 
polycythemia). CBC trended and dropped to a low of 21.7 in the 
setting of hemothorax (see above). At discharge H/H was 
9.2/29.0. 

# Hypoxic respiratory distress: Multifactorial: Large PEs, PNA, 
pulm infarct, pleural effusion and pulm edema ___ LV 
dysfunction; improved with diuresis and thoracentesis c/b 
pneumothorax. Likely from markedly elevated filing pressures as 
well as possibly an element of compressive atelectasis due to 
the effusion. Now he is more comfortable, satting well on room 
air.

Chronic issues: 
#OA/DJD: Chronic, takes Aleve and Tylenol at home. Tylenol PRN 
for pain control in house.

#OSA: Uses CPAP at home. Patient's wife brought home CPAP in and 
overnight CPAP was continued.

TRANSITIONAL ISSUES:
-Consider hypercoagulability workup: for patient that is taking 
anticoagulant, consider acute thrombophilia test profile: APCR, 
fasting homocysteine (level 17.1, ___, lupus anticoagulant, 
Anticardiolipin antibodies IgG and IgM, Prothrombin ___ 
mutation assay; however, this may not be needed as patient was 
fairly immobile prior to developing PE and also likely needs 
lifelong anticoagulation and many of these tests would require 
patient to be off anticoagulation
-Needs anticoagulation for at least 3 months
-Incidental thyroid nodule found on ??, will need outpatient U/S 
to further evaluate
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
2. Fluticasone Propionate 110mcg 2 PUFF IH BID 
3. Omeprazole 20 mg PO DAILY 
4. FoLIC Acid 1 mg PO DAILY 
5. Cetirizine *NF* 10 mg Oral daily PRN allergy symptoms 
6. Cyanocobalamin 1000 mcg PO DAILY 
7. Naproxen 220 mg PO QAM 
8. Acetaminophen 500 mg PO QAM 

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN pain 
2. Cyanocobalamin 1000 mcg PO DAILY 
3. Fluticasone Propionate 110mcg 2 PUFF IH BID 
4. FoLIC Acid 1 mg PO DAILY 
5. Omeprazole 20 mg PO BID 
6. Amiodarone 400 mg PO DAILY 
7. Enoxaparin Sodium 100 mg SC Q12H 
8. Loperamide 2 mg PO QID:PRN diarrhea 
9. Maalox/Diphenhydramine/Lidocaine 15 mL PO QID:PRN indigestion 

10. Metoprolol Succinate XL 37.5 mg PO DAILY 
Hold SBP < 100, HR < 55 
11. Potassium Chloride 60 mEq PO DAILY 
12. Simethicone 40-80 mg PO QID:PRN gas 
13. Tamsulosin 0.4 mg PO HS 
14. traZODONE 25 mg PO HS:PRN insomnia 
15. Warfarin 2.5 mg PO DAILY16 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Bilateral pulmonary embolism
atrial fibrillation with rapid ventricular response
Right pleural effusion
Right hemothorax and hematoma s/p VATS
leukocytosis
Urinary retention
Acute Kidney injury
Acute blood loss anemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - ambulates with walker and one 
assist

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you during your hospitalization 
at ___. You were admitted with a new abnormal heart rhythm and 
leg swelling and were found to have clots in your lungs. You 
also had some fluid outside of your lungs which was drained. 
Some air escaped from your lung during the procedure and a chest 
tube was placed to help the lung re-expand. You had bleeding at 
the site of the chest tube which was evaluated by thoracic 
surgery. Because the amount of blood collected outside your lung 
was too large to drain, you were taken to the operating room for 
removal of this blood collection and three separate chest tubes 
were placed. You improved and the tubes were removed. You also 
underwent cardioversion for treatment of your abnormal heart 
rhythm and remained in normal rhythm following medication with 
amiodarone. Your heart failure was exacerbated by your abnormal 
rhythm and the pulmonary emboli. You were treated with diuretics 
to remove extra fluid and medications were used to maintain your 
blood pressure when it dropped too low. You were seen by 
hematology/oncology for your elevated white blood cell count and 
your studies were all normal, indicating that the high white 
blood cell count was likely a reaction to stress and or 
infection. Please attend all follow up appointments as indicated 
and take all medications as prescribed.
Weigh yourself every morning, call Dr. ___ weight goes 
up more than 3 lbs in 1 day or 5 pounsd in 3 days. 
 
Followup Instructions:
___